US06414126B1
A mixture of o-toluic acid (28 g, 206 mmol), iron powder (0.74 g, 13 mmol), and Br2 (42 g, 260 mmol) were stirred at 0° for 2 hr. At this point the reaction, which had proceeded ˜40%, was diluted with 25 mL of CH2Cl2 to facilitate stirring. The reaction was then heated at 45° for 16 hr to drive to completion. Upon cooling, the reaction was diluted with CH2Cl2, washed 2× with 10% NaHSO3, 1× with brine prior to drying over Na2SO4. After removal of the volatiles, the residue comprising a 2:1 mixture of 5-bromo to 3-bromotoluic acid was recrystallized from 95% EtOH to yield 14.4 g of 5-bromo-2-methylbenzoic acid.

reactant | o-toluic acid | 206 mmol, 28 g | C=1(C(=CC=CC1)C(=O)O)C | C8H8O2
reactant | Br2 | 260 mmol, 42 g | BrBr | Br2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | iron | 13 mmol, 0.74 g | [Fe] | Fe
product | 5-bromo-2-methylbenzoic acid | 14.4 g | BrC=1C=CC(=C(C(=O)O)C1)C | C8H7BrO2
